US07553840B2
Tetrabutylammonium fluoride (0.1 ml of 1M in THF) was added to a solution of 2-furan-2-yl-benzaldehyde (123 mg, 0.71 mmol) and trifluoromethyl trimethylsilane (120 mg, 0.86 mmol) in 10 ml THF at 0° C. The mixture was warmed up to room temperature and stirred for 4 hours. The reaction mixture was then treated with 3 ml of 1 M HCl and stirred overnight. The product was extracted with ethyl acetate (3×20 ml). The organic layer was separated and dried over sodium sulfate. The organic solvent was evaporated to give 0.150 g of 2,2,2-trifluoro-1-(2-furan-3-yl-phenyl)-ethanol, which was directly used in next step without purification (yield: 90%).

reactant | Tetrabutylammonium fluoride | 1M, 0.1 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 2-furan-2-yl-benzaldehyde | 0.71 mmol, 123 mg | O1C(=CC=C1)C1=C(C=O)C=CC=C1 | C11H8O2
reactant | trifluoromethyl trimethylsilane | 0.86 mmol, 120 mg | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | HCl | 1 M, 3 ml | Cl | ClH
reactant | THF | 10 ml | C1CCOC1 | C4H8O
product | 2,2,2-trifluoro-1-(2-furan-3-yl-phenyl)-ethanol | 0.150 g, yield: 90% | FC(C(O)C1=C(C=CC=C1)C1=COC=C1)(F)F | C12H9F3O2
